US05977178
A solution of of N-Methyl-N-((1R)-1-(N-methyl-N-((1R)-1-((N-methyl-N-(methylsufonyl)amino)methyl)-2-(2-thienyl) ethyl)carbamoyl)-2-(2-naphthyl) ethyl)carbamic acid tert-butyl ester (1.94 g, 3.37 mmol) in dichloromethane (7 ml) was cooled to 0° C. Trifluoroacetic acid (7 ml) was added. The reaction mixture was stirred for 45 min at 0° C. A saturated aqueous solution of sodium hydrogen carbonate (30 ml) was added. Solid sodium hydrogen carbonate was added until pH 7. Water (100 ml) was added, until a clear solution was obtained. The phases were separated. The aqueous solution was extracted with dichloromethane (2×50 ml). The combined organic layers were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (200 g), using dichloromethane/methanol/25% aqueous ammonia as eluent, to give 1.70 g of (2R)-2-Methylamino-N-methyl-N-((1R)-1-((N-methyl-N-(methylsulfonyl)amino)methyl)-2-(2-thienyl)ethyl)-3-(2-naphthyl)propionamide.

reactant | N-Methyl-N-((1R)-1-(N-methyl-N-((1R)-1-((N-methyl-N-(methylsufonyl)amino)methyl)-2-(2-thienyl) ethyl)carbamoyl)-2-(2-naphthyl) ethyl)carbamic acid tert-butyl ester | 3.37 mmol, 1.94 g | C(C)(C)(C)OC(N([C@H](CC1=CC2=CC=CC=C2C=C1)C(N([C@H](CC=1SC=CC1)CN(S(=O)(=O)C)C)C)=O)C)=O | C29H39N3O5S2
reactant | Trifluoroacetic acid | 7 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | 30 ml | C(O)([O-])=O.[Na+]
reactant | Water | 100 ml | O | H2O
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
product | (2R)-2-Methylamino-N-methyl-N-((1R)-1-((N-methyl-N-(methylsulfonyl)amino)methyl)-2-(2-thienyl)ethyl)-3-(2-naphthyl)propionamide | 1.70 g | CN[C@@H](C(=O)N([C@H](CC=1SC=CC1)CN(S(=O)(=O)C)C)C)CC1=CC2=CC=CC=C2C=C1 | C24H31N3O3S2
